US07176242B2
A solution of 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoic acid (133 mg, 0.42 mmol), (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride (171 mg, 0.42 mmol), HOBt (57 mg, 0.42 mmol), and N-methylmorpholine (148 μL, 1.3 mmol) was stirred in dimethylformamide (2 mL) for 15 min. EDC (130 mg, 0.75 mmol) was added and the reaction mixture was stirred overnight. The reaction mixture was diluted with water, and extracted with ethyl acetate (3×25 mL). The organic layer was washed with 1 M hydrochloric acid (25 mL), saturated sodium bicarbonate (25 mL), saturated sodium chloride, dried (sodium sulfate), and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provided N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-(1,3-oxazol-2-yl)-N3,N3-dipropylisophthalamide (62 mg): mp 65–67° C.; 1H NMR (500 MHz, CDCl3) δ 8.21 (br s, 1H), 8.15 (s, 2H), 7.69 (s, 1H), 7.60 (s, 1H), 7.25 (t, J=8 Hz, 1H), 7.19–7.17 (m, 3H), 7.10 (d, J=8 Hz, 1H), 6.96 (d, J=8 Hz, 2H), 6.60 (t, J=8 Hz, 1H), 4.27 (d, J=8 Hz, 1H), 3.88–3.80 (m, 3H), 3.53 (br s, 2H), 3.44 (br s, 2H), 3.09–3.01 (m, 4H), 2.85–2.82 (m, 2H), 2.62 (t, J=8 Hz, 2H), 1.74 (br s, 2H), 1.45 (br s, 2H), 1.21 (t, J=8 Hz, 3H), 1.03 (t, J=7 Hz, 3H), 0.66 (t, J=7 Hz, 3H); APCI MS m/z 633 [M+H]+

reactant | 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoic acid | 0.42 mmol, 133 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)CCC | C17H20N2O4
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 0.42 mmol, 171 mg | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | HOBt | 0.42 mmol, 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 1.3 mmol, 148 μL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.75 mmol, 130 mg
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-(1,3-oxazol-2-yl)-N3,N3-dipropylisophthalamide | 62 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2OC=CN2)=O)C=C(C1)F | C36H42F2N4O4
